US05180838
EXAMPLE II--Preparation of 1,3-(Di-2-thienyl-benzene
The Grignard was prepared by adding 2-bromothiophene (8.15 g, 0.05 m) in diethyl ether (10 ml) to magnesium turnings (1.22 g, 0.05 m) and iodine (trace) in diethyl ether (15 ml). After 1 h, the Grignard was slowly added to 1,3-dibromobenzene (5.0 g, 0.021 m) and catalyst in diethyl ether (20 ml). Workup after 24 h afforded a residue which crystallized from hot hexanes yielding a green solid (540 mg, 10% crude yield). The green solid (190 mg) was purified by column chromatography using petroleum ether as the eluant. A light green crystalline solid (136 mg, 7.6% yield) was separated; m.p. 83°-84° C., m/z 242 (M+); Found: C, 69.22; H, 4.04; S, 26.09; C14H10S2 requires: C,69.4; H, 4,1; S, 26.4H NMR(CDCl3) δ7.35 (dd, J=<1, 3 Hz, 2 H), δ7.085 (dd, J=5,3 Hz, 2H), δ7.29 (dd, J=<1, 5 Hz, 2H), δ7.81 (t, J=<1 Hz, 1H), δ7.38 (dd, J=8 Hz, 1H), δ7.51 (ddd, J=<1,2, 8 Hz, 2H).

reactant | 2-bromothiophene | 8.15 g | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 1.22 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,3-dibromobenzene | 5.0 g | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Di-2-thienyl-benzene | 136 mg, 7.6% yield | S1C(=CC=C1)C1=C(C=CC=C1)C=1SC=CC1 | C14H10S2
